US08420690B2
e) 1,1-dimethylethyl [2-amino-2-(1-naphthalenyl)ethyl]carbamate
To a solution of 1,1-dimethylethyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-2-(1-naphthalenyl)ethyl]carbamate (1.29 g, 3.1 mmol) in MeOH (30 mL) was added anhydrous hydrazine (0.5 mL, 15.5 mmol) at 25° C. After 12 h, the solution was partitioned between DCM/H2O. The aqueous phase was washed several times with DCM and the combined organic fractions were dried over Na2SO4, concentrated and used directly yielding the title compound as a white solid (491 mg, 1.72 mmole, 55%): LCMS (ES) m/z 287 (M+H)+.

reactant | 1,1-dimethylethyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-2-(1-naphthalenyl)ethyl]carbamate | 3.1 mmol, 1.29 g | O=C1N(C(C2=CC=CC=C12)=O)C(CNC(OC(C)(C)C)=O)C1=CC=CC2=CC=CC=C12 | C25H24N2O4
reactant | hydrazine | 15.5 mmol, 0.5 mL | NN | H4N2
solvent | MeOH | 30 mL | CO | CH4O
product | 1,1-dimethylethyl [2-amino-2-(1-naphthalenyl)ethyl]carbamate | 1.72 mmole, 491 mg, 55% | NC(CNC(OC(C)(C)C)=O)C1=CC=CC2=CC=CC=C12 | C17H22N2O2
